US05283248
Ethyl 6-[4-(tert-butoxycarbonyl)-1-piperazinyl]-1-cyclopropyl-5-fluoro-2-benzimidazoleacetate (4.5 g, 10 mmol) is dissolved in ethanol (100 ml) and treated with ammonium chloride (5.35 g, 100 mmol) and 25 percent ammonium hydroxide solution (50 ml). The suspension obtained is stirred at 50° for 18 hours and thereafter evaporated under reduced pressure. The residue is suspended in ethyl acetate (150 ml) and the insoluble ammonium chloride is filtered off. The filtrate is concentrated to a volume of 50 ml and then chromatographed on silica gel (eluent: ethyl acetate/methanol 9:1). The product is recrystallized from ethyl acetate/n-hexane. There are obtained 2.22 g (53%) of tert-butyl 4-[2-(carbamoylmethyl)-1-cyclopropyl-5-fluoro-6-benzimidazolyl]-1-piperazinecarboxylate with a m.p. of 219°-220°.

reactant | Ethyl 6-[4-(tert-butoxycarbonyl)-1-piperazinyl]-1-cyclopropyl-5-fluoro-2-benzimidazoleacetate | 10 mmol, 4.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=CC2=C(N(C(=N2)CC(=O)OCC)C2CC2)C1)F | C23H31FN4O4
reactant | ammonium chloride | 100 mmol, 5.35 g | [Cl-].[NH4+]
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | tert-butyl 4-[2-(carbamoylmethyl)-1-cyclopropyl-5-fluoro-6-benzimidazolyl]-1-piperazinecarboxylate | 2.22 g, 53% | C(N)(=O)CC1=NC2=C(N1C1CC1)C=C(C(=C2)F)N2CCN(CC2)C(=O)OC(C)(C)C | C21H28FN5O3
